US07678815B2
2-Propyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid (6-methyl-pyridin-2-yl)-amide
The title compound, MS (ISP): m/e=354.0 (M+H+), was prepared as for example 153, steps A to G. Step C was performed using butyryl chloride, and yielded butyrylamino-cyano-acetic acid ethyl ester, which was cyclized to 5-amino-2-propyl-thiazole-4-carboxylic acid ethyl ester in step D. This was used in step E to generate 2-propyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester, which was hydrolized to 2-propyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid in step F. Coupling as described in step G generated the title compound.

reactant | 5-amino-2-propyl-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1N)CCC | C9H14N2O2S
reactant | 2-propyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1NC=1C=NC=CC1)CCC | C14H17N3O2S
reactant | 2-propyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid | C(CC)C=1SC(=C(N1)C(=O)O)NC=1C=NC=CC1 | C12H13N3O2S
product | 2-Propyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid (6-methyl-pyridin-2-yl)-amide | CC1=CC=CC(=N1)NC(=O)C=1N=C(SC1NC=1C=NC=CC1)CCC | C18H19N5OS
